Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of CAD s/p 
cath in ___ showing 3VD that has been managed medically. He has 
had no further cardiac procedures since then but has been 
followed by Dr. ___ at ___ who noted a new LBBB on 
his EKG ___.  
.  
Mr. ___ has baseline anginal symptoms that include chest 
pain after walking ___ blocks, usually lasting minutes and 
promptly relieved by SL nitro. Angina is described as variable, 
at times starting in neck and radiating down to b/l chest, 
pressure sensation, rarely radiating down L arm. No accompanying 
SOB. It is difficult for him to say whether these symptoms have 
worsened recently. His exercise tolerance is more limited by 
lower extremity cramping pain than by angina. He also noted 6 
months of increasing lower extremity edema. His cardiologist had 
given him lasix for this with some improvement.  
.  
He was having sex on ___ night and developed worsening of his 
baseline anginal symptoms. On ___ morning while lying in bed 
he developed cough productive of pink frothy sputum and was 
short of breath. After standing up and getting in the shower the 
shortness of breath subsided and he did not have any further CP. 
He presented to the ED.  
.  
On admission, vital signs T 98.9, HR 63, BP 157/85, RR 22, O2 
sat 97% on 2L. Exam notable for bilateral crackles EKG showed a 
left bundle branch block that was old compared to ___ (but 
new at that time). CXR not grossly volume overloaded. BNP 500. 
Troponin elevated to .13 (upper limit of normal .04). CK’s neg. 
He was given 20 mg IV lasix with 800 cc output as well as ASA 
325 mg. He was not plavix loaded or started on a heparin gtt at 
that time. He was admitted.  
.  
Overnight he developed elevated systolic BP to the 180s and was 
treated with 2 doses of hydralazine with improvement. He also 
received an additional 20 mg IV lasix this morning, with 1050 cc 
urine output and improvement in peripheral edema.  
.  
The morning of transfer. he developed chest pain that was 
suspicious for GERD vs angina. He treated with prilosec, NTG x 
1, Maalox and then Tylenol. He also received 300 mg Plavix as 
well as ASA 81 mg. Chest pain resolved after two hours. Symptoms 
resolved and no further complaints.  
.  
Echo was done showing normal EF of 65%, trivial LVH, no regional 
wall motion abnormabilities, AS with peak flow of 3.1 m/s. He 
has been NPO, received IV NS at 40 cc/h (no mucomyst), and is 
now transferred to ___ for catheterization. Vital signs prior 
to transfer: BP 145/74, HR ___ sinus, O2 sat 95% on RA, 
afebrile,  
.  
In the cath lab, 3VD was confirmed, with RCA totally occluded, 
LAD 60%, LCx 60%. This was essentially unchanged from prior. 
PCWP 15.  
.  
On review of systems, he denies any prior history of stroke. He 
did have a TIA. He has had no deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. He denies 
recent fevers, chills or rigors. He does have exertional calf 
pain as above. All of the other review of systems were negative. 
 
.  
Cardiac review of systems is notable for chest pain as above. No 
significant dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea. No palpitations, syncope recently (remote hx) or 
presyncope.  
.  
.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: no Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
- CAD s/p cath at ___ ___: 30% LMCA, 60% proximal LAD, LCx 
with 60% stenosis, RCA completely occluded proximally. This was 
managed medically.  
- Mild AS on cath ___  
3. OTHER PAST MEDICAL HISTORY  
- PVD  
- TIA, s/p left CEA ___ and known total occlusion of the ___ 
right ICA at its origin  
- Tonsillectomy  
- Anxiety Depression  
- ADD  
- MVA x2 c/b chronic back pain  
- Constipation causing impactions  
- Gerd  
- Hyperlipidemia  
- hypertension  

 
Social History:
___
Family History:
Father had a CABG in his ___, lived into his ___. No other 
family history of cardiac disease.
 
Physical Exam:
weight 76 kg this morning, height ___  
VS - BP 174/90, HR ___, afebrile  
Gen: well-appearing elderly man lying flat in bed in no distress 
Oriented x3. Mood, affect appropriate.  
HEENT: moist mucous membranes, oropharynx clear  
Neck: Supple with JVP to angle of jaw lying flat  
CV: PMI non-displaced. Regular. ___ systolic murmur, heard best 
at RUSB  
Chest: breathing not labored, lungs clear bilaterally anteriorly 
 
Abd: soft, nontender, nondistended, normoactive bowel sounds  
Ext: warm, no edema  
Skin: no rashes  

 
Pertinent Results:
___ 06:30AM BLOOD Glucose-94 UreaN-22* Creat-1.6* Na-144 
K-3.6 Cl-104 HCO3-27 AnGap-17
___ 06:30AM BLOOD WBC-8.1 RBC-4.37* Hgb-13.8* Hct-40.4 
MCV-92 MCH-31.6 MCHC-34.2 RDW-14.0 Plt ___
___ 06:30AM BLOOD ALT-19 AST-25 LD(LDH)-243 AlkPhos-67 
Amylase-127* TotBili-0.8
___ 06:30AM BLOOD Lipase-122*

Cardiac cath:

COMMENTS:      
1. Selective coronary angiography of this right dominant system 
revealed 
three vessel coronary artery disease.  The LMCA had no 
angiographically 
apparent flow limiting disease.  The LAD had a 70% stenosis at 
the 
proximal segment and diffuse irregularities.  The LCX system had 
a 70% 
stenosis at the proximal major obtuse marginal.  The RCA had a 
proximal 
occlusion with bridging and LAD collaterals to the distal 
vessel. 
2. Resting hemodynamics demonstrated only minimally elevated 
left-sided 
filling pressure with PCWP 15 mm Hg, mild pulmonary hypertension 
with PA 
pressures ___ mm Hg, elevated systolic central pressure with 
central 
aortic pressure 182/79 mm Hg, and normal cardiac index at 2.43 
l/min/m2. 
  
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 
2. Mild elevation of PCW pressure. 

TTE:

The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with infero-lateral hypokinesis and distal 
___ hypokinesis. The remaining segments are 
hyperdynamic.Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The number of aortic valve leaflets 
cannot be determined. The aortic valve leaflets are moderately 
thickened. There is moderate aortic valve stenosis (valve area 
1.0-1.2cm2). Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.  
 
Brief Hospital Course:
A ___ year-old man with a 3-vessel CAD managemed medically who 
presented with frothy sputum and increasing angina, now referred 
for catheterization.  
.  
#) CORONARIES: Patient had 3 vessel disease on cath in ___ that 
has been managed medically. He had been appropriately medically 
managed with ASA, beta blocker, lipid control. Anginal symptoms 
increasing recently, and recently new LBBB concerning for 
worsening CAD.  He received ASA and Plavix load at outside 
hospital.  He was transferred for catheterization which 
confirmed 3VD that was not significantly worse. However, given 
worsening symptoms and the extent of his disease, the deicion 
was made to pursue surgical revascularization.  Cardio-thoracic 
surgery was consulted and made arrangements for him to follow up 
as an outpatient to arrange CABG/AVR.  Medical management was 
continued in the interim, including simvastatin, which was 
increased to 80 mg, ezetimibe, atenolol.  Methylphenidate was 
concerning for its potential to worsen coronary vasospasm, and 
it was stopped. 
.  
#) PUMP: EF normal per echo at OSH without systolic or diastolic 
dysfunction. BNP on admission there was mildly elevated to 500. 
His symptoms may have been more attributable to his AS rather 
than intrinsic pump dysfunction. After diuresis at the other 
hospital, PCWP 15 on catheterization.  At ___, he appeared 
euvolemic and did not require further diuresis.  He underwent 
TTE which showed EF 50-55% and aortic stenosis as below.   
.
#) AORTIC STENOSIS: Mild on cath ___ (gradient 10 mm Hg), 
increased to moderate on echo this admission (area 1.0-1.2, peak 
gradient 40 mm Hg).  He will undergo AVR at the time of CABG.
.  
#) RHYTHM: normal sinus on EKG   
.  
#) HYPERTENSION: Patient has had difficult to control 
hypertension, responsive to hydralazine at OSH. Nitro gtt 
started in the cath lab.  This was transitioned to hydralazine 
and Imdur, initially, which was later changed to lisinopril and 
Imdur. His home atenolol was continued. On this regimen his 
blood pressure fell quickly from systolic 180s down to ~100/50. 
He was asymptomatic.  The dose of lisinopril was decreased, and 
the Imdur was stopped prior to discharge.  
.  
#) POSSIBLE PNA: seen on CXR at OSH medial right lower lobe 
subsegmental atelectasis vs development of pneumonia. He has 
been afebrile, without elevated WBC, not hypoxic.  Repeat CXR 
did not show a clear infiltrate. 
.  
#) HYPERLIPIDEMIA: LDL 110, above goal <70 given CAD. Statin was 
increased to atovastatin 80 mg daily. 
.  
#) ACUTE RENAL FAILURE: Baseline creatinine 1.6-1.7 per outside 
hospital. Elevated to 1.8 at OSH.  He received IVF with bicarb 
at 100 cc/h x 6 hours  after catheterization.  Subsequently 
creatinine was at baseline 1.6.
- continue to monitor  
.  
#) GERD: Omeprazole was continued.
.  
#) ADD/COGNITIVE DEFICITS: Not evident on exam.  Venlafaxine was 
continued.  Methylphenidate as held as above.
.
He was confirmed to be full code. 
 
Medications on Admission:
Medications at home:  
ASA 81 mg qday  
simvastatin 40 mg qday  
ezetimibe 10 mg qday  
lasix 20 mg MWF  
atenolol 50 mg qday  
omeprazole 20 mg qday  
venlafaxine 100 mg BID  
methylphenidate 20 mg BID  
ginko biloba 60 mg BID  
.  
.  
Medications on transfer:  
Heparin 5000 SQ at 830am today  
Effexor 100mg bid  
Ritalin 20mg bid at ___  
Zocor 40mg in the pm  
Asa 81mg daily-got this am  
Lasix 20mg IV daily –LD 830am  
Prilosec 20mg daily at 645 am  
Atenolol 50mg daily at 530am today  
Zetia 10mg daily  
Maalox 15cc today at 745 am for c/o indigestion/angina after KCL 
 
SL ntg 0.4mg at 630 for for c/o inigestion/angina after KCL  
Tylenol ___ at 530am for headache  
KCL 40meq at 530.  
Hydralazine 10mg for 180/90s overnight, 4 am and 20mg 
hydralazine at 530 for 180/80  

 
Discharge Medications:
1. Venlafaxine 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Lasix 20 mg Tablet Sig: One (1) Tablet PO MWF.  
8. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
9. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary:  coronary artery disease, aortic stenosis, hypertension
secondary:  peripheral vascular disease, anxiety, attention 
deficit disorder, hyperlipidemia

 
Discharge Condition:
stable

 
Discharge Instructions:
You were transferred to ___ for evaluation of chest pain and 
shortness of breath.  You had a cardiac catheterization that 
showed coronary artery disease.  You had an echocardiogram that 
confirmed your aortic stenosis as well.  You are considering an 
operation to deal with both of these issues.  You will need to 
follow up  as below to address this further.

The following medications were changed:
simvastatin was increased
methylphenidate was stopped
lisinopril was added
.
Please check your blood pressure at home and call your 
cardiologist at ___ for persistent readings >140 or 
<100 systolic (top number).
.
Please call your doctor or return to the emergency room if you 
have worsening chest pain, chest pain not relieved by 
nitroglycerin, shortness of breath, fevers and chills, or other 
symptoms that are concerning to you.
 
Followup Instructions:
___